*
C1 N013 N012 1µ
C2 N014 N013 2µ
C3 N015 N014 3µ
C4 N016 N015 4µ
C5 N017 N016 5µ
R1 N012 N001 100
C6 N018 N017 1µ
C7 N019 N018 2µ
C8 N020 N019 3µ
C9 N021 N020 4µ
C10 0 N021 5µ
V1 0 N001 SINE(0 10 1k)
C11 N010 N011 1µ
C12 N009 N010 2µ
C13 N008 N009 3µ
C14 N007 N008 4µ
C15 N006 N007 5µ
R2 N011 0 100
C16 N005 N006 1µ
C17 N004 N005 2µ
C18 N003 N004 3µ
C19 N002 N003 4µ
C20 N001 N002 5µ
.tran 0 1m 0 1u
.backanno
.end
